US08049006B2
tert-butyl 4-(1-aminopropyl)-2-nitrobenzoate (compound 322)
Tert-butyl 2-nitro-4-propionylbenzoate (9.2 g) was suspended in 2N ammonia/ethanol solution (81 ml), then tetraisopropoxytitanium (18.7 ml) was added at room temperature and the mixture was stirred at that temperature for 6 hours. Next, sodium borohydride (1.8 g) was added to the mixture, and the resulting mixture was stirred at that temperature for 16 hours. Then 2.1N ammonia water (81 ml) and Celite (9g) were added to the reaction solution and the inspluble materials were filtered off and washed with water and ethyl acetate. The filtrate was concentrated in vacuo, then a 5N aqueous sodium hydroxide solution and ethyl acetate were added to the obtained residue. The separated organic layer was concentrated in vacuo, then the obtained residue was purified by silica gel column chromatography to obtain the title compound (7.6 g) as an oily substance.

reactant | Tert-butyl 2-nitro-4-propionylbenzoate | 9.2 g | [N+](=O)([O-])C1=C(C(=O)OC(C)(C)C)C=CC(=C1)C(CC)=O | C14H17NO5
reactant | sodium borohydride | 1.8 g | [BH4-].[Na+]
reactant | ammonia water | 2.1N, 81 ml | O.N
solvent | ammonia ethanol | 2N, 81 ml | N.C(C)O
catalyst | tetraisopropoxytitanium | 18.7 ml | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | tert-butyl 4-(1-aminopropyl)-2-nitrobenzoate | 7.6 g | NC(CC)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C14H20N2O4
